US03982891
F. Preparation of N-phenoxycarbonyl succinimide
To 50 millimolses of phenylchloroformate in 25 ml of ether are added 16.7 ml of a 3M potassium hydroxide solution containing 50 millimoles of predissolved succinimide. The system is then stirred for about 1 hour, additional ether added and then restirred for about 1 hour. The insolubles formed are removed by filtering. Thereafter, the crude product is recrystallized from butanol saturated with water to give the desired product, melting point 132° - 133.5°C.

reactant | phenylchloroformate | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | potassium hydroxide | 3M | [OH-].[K+]
reactant | succinimide | 50 millimoles | C1(CCC(N1)=O)=O | C4H5NO2
solvent | ether | 25 ml | CCOCC | C4H10O
product | N-phenoxycarbonyl succinimide | O(C1=CC=CC=C1)C(=O)N1C(CCC1=O)=O | C11H9NO4
